US06303612B1
2-(3-(Quinoline-2-ylmethoxy)phenylsulfanyl)benzoic Acid (17)
Using the procedure described in Example 23 starting from 2-chloromethyiquinoline and methyl 2-(3-hydroxyphenylsulfanyl)benzoate, methyl ester of the title acid was obtained as red-brown crystals in nearly quantitative yield, m.p. 52-55° C. An analytical sample was further purified by crystallization from a mixture of ethanol and ether. For C24H19NO3S (401.5) calculated: 71.80% C, 4.77% H, 3.49% N, 7.99% S; found: 71.83% C, 4.76% H, 3.18% N, 7.75% S.

reactant | 2-chloromethyiquinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | methyl 2-(3-hydroxyphenylsulfanyl)benzoate | OC=1C=C(C=CC1)SC1=C(C(=O)OC)C=CC=C1 | C14H12O3S
product | 2-(3-(Quinoline-2-ylmethoxy)phenylsulfanyl)benzoic Acid | quantitative yield | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C23H17NO3S
